US07872014B2
To a solution of methyl 3,4-bis{[2-(methyloxy)ethyl]oxy}benzoate, (1.1 g, 3.9 mmol) at 0° C. was added a solution of lithium aluminum hydride in tetrahydrofuran (1.0M, 5.0 mL, 5.0 mmol) and the resulting mixture was stirred for one hour. It was then quenched with ethyl acetate (2 mL) and 5% sodium hydroxide solution (2 mL), diluted with ether (100 mL), and filtered. The filtrate was washed water and brine (100 mL each), dried over sodium sulfate, filtered and concentrated to give (3,4-bis{[2-(methyloxy)ethyl]oxy}phenyl)methanol (0.82 g, 3.2 mmol, 82% yield). 1H NMR (400 MHz, CDCl3): 6.93 (s, 1H), 6.87 (s, 2H), 4.59 (s, 2H), 4.16-4.13 (m, 4H), 3.77-3.74 (m, 4H), 3.44 (s, 6H).

reactant | methyl 3,4-bis{[2-(methyloxy)ethyl]oxy}benzoate | 3.9 mmol, 1.1 g | COCCOC=1C=C(C(=O)OC)C=CC1OCCOC | C14H20O6
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 5.0 mmol, 1.0M, 5.0 mL | O1CCCC1 | C4H8O
product | (3,4-bis{[2-(methyloxy)ethyl]oxy}phenyl)methanol | 3.2 mmol, 0.82 g, 82% yield | COCCOC=1C=C(C=CC1OCCOC)CO | C13H20O5
